US09079866B2
5-[3-Fluoro-2′-(phenylsulfonyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-bromo-2-(phenylsulfonyl)benzene. MS (ESI): mass calcd. for C22H16FN3O2S, 405.09; m/z found, 406.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.35 (s, 1H), 8.29 (dd, J=6.7, 2.5, 1H), 8.03 (d, J=1.4, 1H), 7.80-7.66 (m, 3H), 7.58 (m, 1H), 7.41-7.28 (m, 5H), 6.84 (dd, J=8.0, 1.6, 1H), 6.78-6.66 (m, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-bromo-2-(phenylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H9BrO2S
product | 5-[3-Fluoro-2′-(phenylsulfonyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C22H16FN3O2S
